US07709678B2
First, the alkali-treated solid support was prepared in the following manner. 3 grams of a support (alumina, montmorillonite K-10, kaolin) was added to 4 ml of a 25% KOH aqueous solution. This mixture was irradiated with ultrasound (42 kHz) for 4 hours. Next, with an aspirator (produced by TOKYO RIKAKIKI), moisture was removed from this mixture by filtration in a reduced pressure environment. With a 500 W home-use microwave oven (EM-LAI produced by SANYO), the solid support thus obtained was irradiated with microwave of 2.45 GHz for 15 minutes. After this microwave irradiation treatment, the alkali-treated solid support was pounded finely with a mortar. In this way, three kinds of alkali-treated solid supports (alumina/KOH, montmorillonite K-10/KOH, and kaolin/KOH) were obtained.

reactant | montmorillonite K-10 | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
reactant | KOH | [OH-].[K+]
product | montmorillonite K-10 KOH | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3].[OH-].[K+] | InChI=1S/2Al.K.4O2Si.2H2O.3O/c;;;4*1-3-2;;;;;/h;;;;;;;2*1H2;;;/q2*+3;+1;;;;;;;3*-2/p-1
